US04545995
4(3-Chlorophenyl)-N,N-diethyl-N-heptyl-2-buten-1-aminium chloride
Heat a mixture of 6.0 g (0.03 mole) of 1-chloro-3-(4-chloro-2-butenyl)benzene and 3-chloro-4-(3-chlorophenyl)-1-butene (in a ratio of 4:3) and 5.1 g (0.03 mole) N,N-diethylheptanamine at 100° C. for about 20 hours. Dissolve in 100 ml water and wash with 3×75 ml hexane and then extract with methylene chloride. Dry methylene chloride extract over magnesium sulfate, filter and evaporate the solvent in vacuo to provide the title compound.

reactant | 1-chloro-3-(4-chloro-2-butenyl)benzene | 0.03 mole, 6.0 g | ClC1=CC(=CC=C1)CC=CCCl | C10H10Cl2
reactant | 3-chloro-4-(3-chlorophenyl)-1-butene | ClC(C=C)CC1=CC(=CC=C1)Cl | C10H10Cl2
reactant | N,N-diethylheptanamine | 0.03 mole, 5.1 g | C(C)N(CCCCCCC)CC | C11H25N
solvent | water | 100 ml | O | H2O
product | 4(3-Chlorophenyl)-N,N-diethyl-N-heptyl-2-buten-1-aminium chloride | [Cl-].ClC=1C=C(C=CC1)CC=CC[N+](CCCCCCC)(CC)CC | InChI=1S/C21H35ClN.ClH/c1-4-7-8-9-11-17-23(5-2,6-3)18-12-10-14-20-15-13-16-21(22)19-20;/h10,12-13,15-16,19H,4-9,11,14,17-18H2,1-3H3;1H/q+1;/p-1
